US06329405B1
(72a) N-[1-(3,4-Difluorophenyl)ethyl]-N-[(4-fluoro-3-nitrophenyl)-(4-methoxyphenyl)methyl}amine
Following a similar procedure to that described in Example (1a), 2.0 g of 4-fluoro-3-nitrophenyl 4-methoxyphenyl ketone, 2.81 g of 1-(3,4-difluorophenyl)ethylamine hydrochloride, 6.08 ml of triethylamine, 0.96 ml of titanium tetrachloride, 2.03 g of sodium cyanoborohydride and 0.62 ml of acetic acid were reacted, to obtain 2.63 g of the title compound as a yellow oil.

reactant | 4-fluoro-3-nitrophenyl 4-methoxyphenyl ketone | 2.0 g | COC1=CC=C(C=C1)C(=O)C1=CC(=C(C=C1)F)[N+](=O)[O-] | C14H10FNO4
reactant | 1-(3,4-difluorophenyl)ethylamine hydrochloride | 2.81 g | Cl.FC=1C=C(C=CC1F)C(C)N
reactant | triethylamine | 6.08 ml | C(C)N(CC)CC | C6H15N
reactant | sodium cyanoborohydride | 2.03 g | C(#N)[BH3-].[Na+]
catalyst | titanium tetrachloride | 0.96 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | acetic acid | 0.62 ml | C(C)(=O)O | C2H4O2
product | N-[1-(3,4-Difluorophenyl)ethyl]-N-[(4-fluoro-3-nitrophenyl)-(4-methoxyphenyl)methyl}amine | 2.63 g | FC=1C=C(C=CC1F)C(C)NC(C1=CC=C(C=C1)OC)C1=CC(=C(C=C1)F)[N+](=O)[O-] | C22H19F3N2O3
